US06008243
To a solution of 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester (0.465 g, 1.44 mmol) in THF (10 mL) at 0° C. was added 2M aqueous LiOH (2 mL). The mixture was allowed to warm over 4 hours to ambient temperature and then poured into 0.5M aqueous HCl (50 mL). The resultant pale orange precipitate was filtered off, rinsed with water, and dried under vacuum over P2O5 to provide 400 mg (100%) of 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid as a light orange solid, mp 196-210° C., used without further purification. 1H NMR (acetone-d6): δ 7.78 (d, 2H, J=8.1 Hz), 7.72-7.67 (m, 4H), 7.46 (t, 2H, J=7.4 Hz), 7.35 (t, 1H, J=7.4 Hz), 6.84 (d, 1H, J=3.3 Hz), 6.41 (d, 1H, J=3.3 Hz), 3.81 (s, 2H). Anal. Calculated for C18H14O3 : C, 77.68; H, 5.07. Found: C, 77.44; H, 5.16.

reactant | 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester | 1.44 mmol, 0.465 g | C(C)OC(CC1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C20H18O3
reactant | LiOH | 2M, 2 mL | [Li+].[OH-]
reactant | HCl | 0.5M, 50 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid | 400 mg, 100% | C1(=CC=C(C=C1)C=1OC(=CC1)CC(=O)O)C1=CC=CC=C1 | C18H14O3
